US09034900B2
Step 5: 2-chloro-4-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-6-methylfuro[2,3-c]pyridin-7-one
A mixture of 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (33 mg, 0.09 mmol), 4-bromo-2-chloro-6-methylfuro[2,3-c]pyridin-7-one (25 mg, 0.09 mmol), K3PO4 (50 mg, 0.24 mmol), Pd(dppf)Cl2 (7 mg, 10%) in dioxane/H2O (700 uL/70 uL) was bubbled with nitrogen for 5 min. The sealed vial was stirred at 70° C. for 90 min. The reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc (10 mL). The filtrate was washed with water and brine; the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford a tan residue. The resulting residue was purified by prep-HPLC to afford the title compound (27 mg, 69%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.23-0.34 (m, 2H) 0.44-0.55 (m, 2H) 1.00-1.13 (m, 1H) 3.19-3.24 (m, 3H) 3.61 (s, 3H) 3.94-4.05 (m, 2H) 6.82-6.89 (m, 1H) 7.10-7.16 (m, 1H) 7.26-7.35 (m, 1H) 7.70-7.78 (m, 1H) 7.87-7.94 (m, 1H). LCMS (M+H)+=409.

reactant | 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.09 mmol, 33 mg | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C17H25BO5S
reactant | 4-bromo-2-chloro-6-methylfuro[2,3-c]pyridin-7-one | 0.09 mmol, 25 mg | BrC=1C2=C(C(N(C1)C)=O)OC(=C2)Cl | C8H5BrClNO2
reactant | K3PO4 | 0.24 mmol, 50 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane H2O | 700 uL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-chloro-4-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-6-methylfuro[2,3-c]pyridin-7-one | 27 mg, 69% | ClC1=CC2=C(C(N(C=C2C2=C(C=CC(=C2)S(=O)(=O)C)OCC2CC2)C)=O)O1 | C19H18ClNO5S
